US04087431
The 3,5,6-trichloro-4-hydrazinopicolinic acid can be prepared in a variety of ways. In one such method, tetrachloropicolinonitrile is reacted with hydrazine in the presence of a reaction medium and hydrogen chloride acceptor. The 3,5,6-trichloro-4-hydrazinopicolinonitrile product thus formed is reacted with an acid hydrolysis agent to prepare 3,5,6-trichloro-4-hydrazinopicolinic acid.

reactant | 3,5,6-trichloro-4-hydrazinopicolinic acid | ClC=1C(=NC(=C(C1NN)Cl)Cl)C(=O)O | C6H4Cl3N3O2
reactant | tetrachloropicolinonitrile | ClC1=C(C(=C(C(=N1)C#N)Cl)Cl)Cl | C6Cl4N2
reactant | hydrazine | NN | H4N2
reactant | hydrogen chloride | Cl | ClH
product | 3,5,6-trichloro-4-hydrazinopicolinonitrile | ClC=1C(=NC(=C(C1NN)Cl)Cl)C#N | C6H3Cl3N4
